Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]=[C:3]([O:4][C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]=[C:3]([O:4][C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.40760336699
[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]>>[O:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[H:8],-2.51898671598
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.9093076256
[H:6].[O:1]=[C:2]([O:3][H:4])[C:5][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-4.86529252952
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[H:10].[O:11][H:12],4.96628452515
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[H:9].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],-1.55090278691
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:9][C:10]([H:11])([H:12])[H:13],3.7279094102900014
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C@@:3]([H:4])([O:5])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.28695657704
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.62024177559
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:4],2.06250593568
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:4][O:5][H:6].[H:1][C:2]#[C:3][C:7]([H:8])([H:9])[O:10][H:11],0.8828765510709999
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10],3.8004655759400015
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[C:9]=[C:10]([H:11])[H:12].[H:8]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-1.65462277412
[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-3.03970786071
[C:1]=[C:2]([O:3][H:4])[C:5](=[O:6])[H:7]>>[C:1]#[C:2][C:5](=[O:6])[H:7].[O:3][H:4],4.938824837099999
[C:1]#[C:2][C:4]([C:5]=[C:6]([H:7])[H:8])[O:9][H:10].[H:3]>>[C:1]=[C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-3.770879573
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]=[O:6]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-0.8152420022
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3],3.30813100775
[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],1.07277597822
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17],4.392095573430002
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-3.49830503272
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.46257778496
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],5.060537121319999
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9],3.5366981467800005
[C:3]([H:4])#[C:5][O:6][C:7]#[C:8][H:9].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]#[C:8][H:9],-4.43162432193
[C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.590110757330001
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13],4.62832859149
[C:4]([H:5])#[C:6][H:7].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7],1.80416016168
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[C:12]([H:13])[H:14])=[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]1[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]1([H:16])[H:17],-0.159708234641
